US08044052B2
5-Isopropoxy-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine
To a solution of tert-butyl 4-(3-(5-isopropoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.5 g, 1.17 mmol) in CH2Cl2 (3 mL) cooled to 0° C. under a N2 atmosphere was added TFA (0.46 mL, 5.97 mmol). The resulting mixture was stirred for 2 h at RT. The solution was concentrated and then quenched with saturated NaHCO3 solution. The mixture was extracted with CH2Cl2 and the organic layer was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (0.38 g, 99%). 1H NMR (500 MHz, CDCl3): δ 8.94 (m, 2H), 7.35 (m, 2H), 7.0 (m, 2H), 6.90 (s, 1H), 6.47 (s, 1H), 4.53 (m, 1H), 3.50 (m, 2H), 3.32 (m, 2H), 2.76 (m, 2H), 2.65 (m, 2H), 1.35 (d, J=6 Hz, 6H).

reactant | tert-butyl 4-(3-(5-isopropoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 1.17 mmol, 0.5 g | C(C)(C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C25H32N2O4
reactant | TFA | 5.97 mmol, 0.46 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-Isopropoxy-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine | 0.38 g, 99% | C(C)(C)OC=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1 | C20H24N2O2
